US06337326B1
3-{4-[4-(2-Methoxy-phenyl)-[1,4]diazepan-1-yl]-cyclohexyl}-5-fluoro-1H-indole
1-(2-Methoxy-phenyl)-[1,4]diazepane (103 mg, 0.5 mmol), 4-(5-fluoro-1H-3-indolyl)-cyclohexanone (116 mg, 0.5 mmol) 5 mL 1,2-dichloroethane and 159 mg (0.75 mmol) of NaBH(OAc), were stirred at 23° C. in a 20 mL scintillation vial for 21 h. The reaction was quenched with 2 mL 1N NaOH, the vial capped, shaken and the organic layer (bottom layer) was removed with an automatic pipet. The organics were removed in a Speed Vac and pumped down overnight to afford 169 mg (0.4 mmol, an 80% yield) of the title compound as an off-white solid. MS (ES) m/z (relative intensity): 422 (M++H, 100).

reactant | 1-(2-Methoxy-phenyl)-[1,4]diazepane | 0.5 mmol, 103 mg | COC1=C(C=CC=C1)N1CCNCCC1 | C12H18N2O
reactant | 4-(5-fluoro-1H-3-indolyl)-cyclohexanone | 0.5 mmol, 5 mL, 116 mg | FC=1C=C2C(=CNC2=CC1)C1CCC(CC1)=O | C14H14FNO
product | 3-{4-[4-(2-Methoxy-phenyl)-[1,4]diazepan-1-yl]-cyclohexyl}-5-fluoro-1H-indole | 80% yield | COC1=C(C=CC=C1)N1CCN(CCC1)C1CCC(CC1)C1=CNC2=CC=C(C=C12)F | C26H32FN3O
